*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-01[uF]/10[V]
* Murata P/N :GXT155R71A224KE01
* Property : C = 2.20e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GXT155R71A224KE01 Port1 Port2
C01 Port1 N01 1.37e-07
R01 Port1 N01 2.27e+08
L02 N01 N02 1.44e-10
R03 N02 N03 1.65e-02
C04 N03 N04 4.13e-06
R04 N03 N04 9.63e+02
C05 N04 N05 4.89e-06
R05 N04 N05 9.19e+01
C06 N05 N06 4.04e-06
R06 N05 N06 9.63e+00
C07 N06 N07 3.31e-06
R07 N06 N07 9.94e-01
C08 N07 N08 2.81e-06
R08 N07 N08 1.12e-01
C09 N08 N09 2.16e-06
R09 N08 N09 2.22e-02
L10 N09 N10 2.55e-11
R10 N09 N10 2.19e-01
L11 N10 N11 1.34e-10
R11 N10 N11 6.69e-02
C12 N11 N12 1.58e-06
L12 N11 N12 7.07e-12
R12 N11 N12 6.37e-03
C13 N12 N13 5.41e-07
L13 N12 N13 1.11e-11
R13 N12 N13 1.09e-02
C14 N13 Port2 2.55e-12
L14 N13 Port2 8.73e-11
R14 N13 Port2 1.95e+01
.ENDS GXT155R71A224KE01
